US04394515
2-(3-Bromophenylthio)benzoic Acid
A mixture consisting of 179 g. m-dibromobenzene (0.758 mole); 46.6 g. thiosalicyclic acid (0.303 mole); 25.9 g cuprous oxide (0.181 mole); 212 cc. quinoline; and 24 cc. pyridine is mechanically stirred and heated in an oil bath at 200° C. to 210° C. for three hours. The internal temperature remains constant at 145° C. The reaction mixture is then poured into 1500 cc. of 5N aqueous HCl. The oily solid is filtered, then dissolved in 750 cc. 1N aqueous NaOH solution; this solution is filtered through celite, then extracted three times with ether. The aqueous fraction is acidified with concentrated HCl and the resulting grayish solid filtered, washed well with water and dried. The crude yield obtained is 65 g. (69.4%). It is used as such in the next step.

reactant | m-dibromobenzene | 0.758 mole | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | thiosalicyclic acid | 0.303 mole | C(C=1C(S)=CC=CC1)(=O)O | C7H6O2S
reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | HCl | 5N | Cl | ClH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-(3-Bromophenylthio)benzoic Acid | BrC=1C=C(C=CC1)SC1=C(C(=O)O)C=CC=C1 | C13H9BrO2S
